US05510477
heating acetic anhydride, benzoic acid, and caprolactam at a temperature of about 130° to about 170° C. to form volatile acetic acid and benzoyl caprolactam;

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | caprolactam | C1(CCCCCN1)=O | C6H11NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | benzoyl caprolactam | C(C1=CC=CC=C1)(=O)C1C(=O)NCCCC1 | C13H15NO2
